US07288553B2
4-Amino-5-iodo-2-trifluoromethyl-benzonitrile
4-Amino-2-trifluoromethyl-benzonitrile (20.44 g, 109.79 mmoles) and p-toluenesulfonic acid monohydrate (1.05 g, 5.52 mmoles) were dissolved methanol (200 mL) and THF (200 mL), and the reaction mixture was stirred under a nitrogen atmosphere. The reaction vessel was wrapped in aluminium foil, while the solution was stirred for 20 min., then N-iodosuccinimide (30.41 g, 135.17 mmoles) was added and the reaction was allowed to stir overnight (16 hrs). The reaction mixture was concentrated in vacuo, triturated with hexanes (3×400 mL) and concentrated to dryness. The crude solid was dissolved in diethyl ether (400 mL), washed with water (3×), the organic extracts were diluted with hexanes (400 mL) and a white solid precipitated. The solid was filtered and dried in a vacuum oven (35° C. @ 762 Torr) overnight to yield the title compound.

reactant | 4-Amino-2-trifluoromethyl-benzonitrile | 109.79 mmoles, 20.44 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | p-toluenesulfonic acid monohydrate | 5.52 mmoles, 1.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | 200 mL | CO | CH4O
reactant | N-iodosuccinimide | 135.17 mmoles, 30.41 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | aluminium | [Al] | Al
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-Amino-5-iodo-2-trifluoromethyl-benzonitrile | NC1=CC(=C(C#N)C=C1I)C(F)(F)F | C8H4F3IN2
